US09035051B1
6-Amino-2-methyl-5-[2-(4-piperidyl)ethyl]pyrimidin-4-ol, dihydrochloride salt
Combine tert-butyl 4-[2-(4-amino-6-hydroxy-2-methyl-pyrimidin-5-yl)ethyl]piperidine-1-carboxylate (3.73 kg, 11.09 mol) and IPA in a 50 L reactor under a nitrogen atmosphere. Add 12 N hydrochloric acid (3.05 L, 36.6 mol) with stiffing over 3 h. Heat the mixture at 50° C. for 16 h, forming a thick slurry. At that time NMR analysis shows no BOC group remaining. Cool the reaction mixture to 20-25° C., diluting with THF (12 L). Collect the solids by filtration. The filtration is slow and may take over 24 h to complete. Wash with IPA (2×10 L). Dry the material in a vacuum oven at 50° C. to provide the title compound (3.117 kg, 91%).

reactant | tert-butyl 4-[2-(4-amino-6-hydroxy-2-methyl-pyrimidin-5-yl)ethyl]piperidine-1-carboxylate | 11.09 mol, 3.73 kg | NC1=NC(=NC(=C1CCC1CCN(CC1)C(=O)OC(C)(C)C)O)C | C17H28N4O3
reactant | IPA | CC(C)O | C3H8O
reactant | hydrochloric acid | 36.6 mol, 12 N, 3.05 L | Cl | ClH
solvent | THF | 12 L | C1CCOC1 | C4H8O
product | 6-Amino-2-methyl-5-[2-(4-piperidyl)ethyl]pyrimidin-4-ol, dihydrochloride salt | 3.117 kg, 91% | Cl.Cl.NC1=C(C(=NC(=N1)C)O)CCC1CCNCC1 | InChI=1S/C12H20N4O.2ClH/c1-8-15-11(13)10(12(17)16-8)3-2-9-4-6-14-7-5-9;;/h9,14H,2-7H2,1H3,(H3,13,15,16,17);2*1H
